US05849757
5-Amino-6,7-difluoro-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid
A 10.43 g (30.6 mmol) portion of ethyl 5-amino-6,7-difluoro-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylate was mixed with 150 ml of acetic acid and 150 ml of concentrated hydrochloric acid and then heated under reflux for 1 hour. After completion of the reaction, the reaction solution was spontaneously cooled and mixed with 700 ml of water. The thus formed crystals were collected by filtration, washed with water (100 ml×2), ethanol (300 ml×1) and ether (300 ml×1) in that order and then dried to yield 7.52 g (79%) of the title compound.

reactant | ethyl 5-amino-6,7-difluoro-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylate | NC1=C2C(C(=CN(C2=C(C(=C1F)F)C)[C@H]1[C@H](C1)F)C(=O)OCC)=O | C16H15F3N2O3
reactant | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 150 ml | Cl | ClH
solvent | water | 700 ml | O | H2O
product | 5-Amino-6,7-difluoro-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid | 7.52 g, 79% | NC1=C2C(C(=CN(C2=C(C(=C1F)F)C)[C@H]1[C@H](C1)F)C(=O)O)=O | C14H11F3N2O3
